US07674789B2
10a) 4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
3-Iodo-4-methylaniline (11 g, 47.2 mmol), bis(pinacolato)diboron (24.25 g, 95.5 mmol) and potassium acetate (14.3 g, 145.7 mmol) were stirred under argon in DMF (250 mL) in an oil bath maintained at 80° C. The mixture was degassed by vigorously bubbling argon through the mixture for 5 minutes. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (1.875 g, 2.3 mmol) was added and the mixture heated at 80° C. while stirring under argon for 17 hours. The mixture was allowed to cool to room temperature and 50 g of silica gel were added. Most of the solvent was pumped off in vacuo. The residue was flash chromatographed on 200 grams of silica gel eluted with 0-15% ethyl acetate/hexane to give the title compound as a light yellow solid. LC-MS m/z 233 (M)+, 1.53 min (ret. time).

reactant | 3-Iodo-4-methylaniline | 47.2 mmol, 11 g | IC=1C=C(N)C=CC1C | C7H8IN
reactant | bis(pinacolato)diboron | 95.5 mmol, 24.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 145.7 mmol, 14.3 g | C(C)(=O)[O-].[K+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 2.3 mmol, 1.875 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 4-Methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1=C(C=C(N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
